### PR TITLE
[Merged by Bors] - feat: add sumPiEquivProdPi and piUnique

### PR DESCRIPTION
**Pull request by kbuzzard**
From FLT. Add topological and algebraic versions of `Equiv.sumPiEquivProdPi` and `Equiv.piUnique`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Equiv/Basic.lean [hunk 1]
```diff
@@ -832,6 +832,15 @@ def sumPiEquivProdPi {ι ι'} (π : ι ⊕ ι' → Type*) :
   left_inv f := by ext (i | i) <;> rfl
   right_inv _ := Prod.ext rfl rfl
 
+/-- The space of functions from `PUnit` into a family of types
+is isomorphic to the value of this function at `()`.
+-/
+def pUnitPiEquiv (f : PUnit → Type*) : ((t : PUnit) → (f t)) ≃ f () where
```
Comment (ADedecker) [inline Mathlib/Logic/Equiv/Basic.lean:838]:
```suggestion
def pUnitPiEquiv (f : PUnit → Type*) : (∀ t : PUnit, f t) ≃ f () where
```
I think this is more readable for a mathematician eye (I would even argue for Pi-notation but most of this file already uses forall).
Same remark for all flavors of `pUnitPiEquiv`

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 2]
```diff
@@ -567,6 +567,41 @@ def arrowCongrEquiv (e₁₂ : M₁ ≃SL[σ₁₂] M₂) (e₄₃ : M₄ ≃SL[
...
+-/
+def sumPiEquivProdPi (R : Type*) [Semiring R] (S T : Type*)
+    (A : S ⊕ T → Type*) [∀ st, AddCommMonoid (A st)] [∀ st, Module R (A st)]
+    [∀ st, TopologicalSpace (A st)] :
+    ((st : S ⊕ T) → A st) ≃L[R] ((s : S) → A (Sum.inl s)) × ((t : T) → A (Sum.inr t)) where
+  __ := LinearEquiv.sumPiEquivProdPi R S T A
+  __ := Homeomorph.sumPiEquivProdPi S T A
+
+/-- The space of functions from `PUnit` into a family of topological modules
+is homeomorphic and isomorphic to the value of this function at `()`.
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:594]: "homeomorphic and isomorphic" sounds a bit weird to me, what about "topologically isomorphic" or just "isomorphic" ?

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Logic/Equiv/Basic.lean (hunk 1 above)
Comment (kbuzzard) [reply Mathlib/Logic/Equiv/Basic.lean:838]: Am I going crazy? `(Π t : PUnit, f t)` gives me an `expected token` error on the `\Pi` so that's probably why this file isn't using it! I agree that \Pi is best, it looks like a product (and indeed is a product).

Comment (ADedecker) [reply Mathlib/Logic/Equiv/Basic.lean]: You're not going crazy: [PiNotation.piNotation](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Util/Delaborators.html#PiNotation.piNotation) is simply not imported yet!

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 3]
```diff
@@ -567,6 +567,42 @@ def arrowCongrEquiv (e₁₂ : M₁ ≃SL[σ₁₂] M₂) (e₄₃ : M₄ ≃SL[
...
+/-- Combine a family of linear equivalences into a linear equivalence of `pi`-types.
+This is `Equiv.piCongrLeft` as a `ContinuousLinearEquiv` -/
+def piCongrLeft (R : Type*) [Semiring R] {ι ι' : Type*}
+    (φ : ι → Type*) [∀ i, AddCommMonoid (φ i)] [∀ i, Module R (φ i)]
+    [∀ i, TopologicalSpace (φ i)]
+    (e : ι' ≃ ι) : ((i' : ι') → φ (e i')) ≃L[R] (i : ι) → φ i where
+  __ := Homeomorph.piCongrLeft e
+  __ := LinearEquiv.piCongrLeft R φ e
+
+/-- The produce over `S ⊕ T` of a family of topological modules
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:581]:
```suggestion
/-- The product over `S ⊕ T` of a family of topological modules
```

File: Mathlib/Logic/Equiv/Basic.lean [hunk 4]
```diff
@@ -832,6 +832,15 @@ def sumPiEquivProdPi {ι ι'} (π : ι ⊕ ι' → Type*) :
   left_inv f := by ext (i | i) <;> rfl
   right_inv _ := Prod.ext rfl rfl
 
+/-- The space of functions from `PUnit` into a family of types
+is isomorphic to the value of this function at `()`.
+-/
+def pUnitPiEquiv (f : PUnit → Type*) : (∀ t : PUnit, f t) ≃ f () where
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Basic.lean:838]: Isn't this [`Equiv.piUnique`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Defs.html#Equiv.piUnique)?

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 5]
```diff
@@ -567,6 +567,42 @@ def arrowCongrEquiv (e₁₂ : M₁ ≃SL[σ₁₂] M₂) (e₄₃ : M₄ ≃SL[
...
+and algebraically) to the value of the family at `()`.
+
+This is `Equiv.pUnitPiEquiv` as a `ContinuousLinearEquiv`.
+-/
+def pUnitPiEquiv (R : Type*) [Semiring R] (f : PUnit → Type*)
+    [∀ x, AddCommMonoid (f x)] [∀ x, Module R (f x)] [∀ x, TopologicalSpace (f x)] :
+    (Π t : PUnit, f t) ≃L[R] f () where
+  __ := LinearEquiv.pUnitPiEquiv R f
+  __ := Homeomorph.pUnitPiEquiv f
+end Pi
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:604]: nit:
```suggestion

end Pi
```

**Review by eric-wieser — APPROVED** [review]
Probably these should have `@[simps]`, especially if the existing weaker ones in mathlib do.

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/Equiv.lean]: I think in functional analysis "topologically isomorphic" means "isomorphic as a topological vector space", but being more explicit never hurts.

File: Mathlib/Logic/Equiv/Basic.lean (hunk 4 above)
Comment (kbuzzard) [reply Mathlib/Logic/Equiv/Basic.lean]: This is fine for my application so I've switched everything over to this (which makes the name of this branch a bit weird but never mind)

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 6]
```diff
@@ -567,6 +567,44 @@ def arrowCongrEquiv (e₁₂ : M₁ ≃SL[σ₁₂] M₂) (e₄₃ : M₄ ≃SL[
...
+-/
+def sumPiEquivProdPi (R : Type*) [Semiring R] (S T : Type*)
+    (A : S ⊕ T → Type*) [∀ st, AddCommMonoid (A st)] [∀ st, Module R (A st)]
+    [∀ st, TopologicalSpace (A st)] :
+    ((st : S ⊕ T) → A st) ≃L[R] ((s : S) → A (Sum.inl s)) × ((t : T) → A (Sum.inr t)) where
+  __ := LinearEquiv.sumPiEquivProdPi R S T A
+  __ := Homeomorph.sumPiEquivProdPi S T A
+
+/-- The product `Π t : α, f t` of a family of topological modules is homeomorphic
+and linearly isomorphic to the space `f ⬝` when `α` only contains `⬝`.
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:595]:
```suggestion
/-- The product `Π t : α, f t` of a family of topological modules is isomorphic
(both topologically and algebraically) to the space `f ⬝` when `α` only contains `⬝`.
```

**Comment by kbuzzard** [comment]
I don't really want to merge this at the moment because of this unexpected twist where a continuity proof that was `by fun_prop` now involves a random new declaration `Equiv.continuous_symm_of_isOpenMap` which we may even have in some other form already.

File: Mathlib/Topology/Basic.lean [hunk 7]
```diff
@@ -1359,6 +1359,10 @@ theorem IsOpen.preimage (hf : Continuous f) {t : Set Y} (h : IsOpen t) :
     IsOpen (f ⁻¹' t) :=
   hf.isOpen_preimage t h
 
+lemma Equiv.continuous_symm_of_isOpenMap (e : X ≃ Y) (h : IsOpenMap e) : Continuous e.symm := by
+  simp_rw [continuous_def, ← Set.image_equiv_eq_preimage_symm]
+  exact h
```
Comment (eric-wieser) [inline Mathlib/Topology/Basic.lean:1364]: How about making this an `Iff`?
```suggestion
lemma Equiv.continuous_symm_iff (e : X ≃ Y) : Continuous e.symm ↔ IsOpenMap e := by
  simp_rw [continuous_def, ← Set.image_equiv_eq_preimage_symm, IsOpenMap]

lemma Equiv.isOpenMap_symm_iff (e : X ≃ Y) : IsOpenMap e.symm ↔ Continuous e := by
  simp_rw [← Equiv.continuous_symm_iff, Equiv.symm_symm]
```

Comment (eric-wieser) [reply Mathlib/Topology/Basic.lean:1364]: You should probably use these lemmas to golf

https://github.com/leanprover-community/mathlib4/blob/5bf0f3993d81f682aab73c6129b25b49da7144fa/Mathlib/Topology/Homeomorph.lean#L426-L435

too

File: Mathlib/Topology/Homeomorph.lean [hunk 8]
```diff
@@ -671,6 +671,30 @@ def homeomorphOfUnique [Unique X] [Unique Y] : X ≃ₜ Y :=
...
+space `f ⬝` when `α` only contains `⬝`.
+
+This is `Equiv.piUnique` as a `Homeomorph`.
+-/
+@[simps! (config := .asFn)]
+def piUnique {α : Type*} [Unique α] (f : α → Type*) [∀ x, TopologicalSpace (f x)] :
+    (Π t, f t) ≃ₜ f default where
+  __ := Equiv.piUnique f
+  continuous_toFun := by fun_prop
+  continuous_invFun := Equiv.continuous_symm_of_isOpenMap (.piUnique f) <| isOpenMap_eval _
```
Comment (eric-wieser) [inline Mathlib/Topology/Homeomorph.lean:696]: I guess another option would be to use `homeomorphOfContinuousOpen` directly here.

Comment (kbuzzard) [reply Mathlib/Topology/Homeomorph.lean]: This breaks the `fun_prop` proof, which I've replaced with a call to `continuous_apply`.

File: Mathlib/Logic/Equiv/Defs.lean [hunk 9]
```diff
@@ -10,6 +10,7 @@ import Mathlib.Logic.Unique
 import Mathlib.Tactic.Conv
 import Mathlib.Tactic.Simps.Basic
 import Mathlib.Tactic.Substs
+import Mathlib.Util.WhatsNew
```
Comment (kbuzzard) [inline Mathlib/Logic/Equiv/Defs.lean:13]:
```suggestion
```

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 10]
```diff
@@ -567,6 +567,44 @@ def arrowCongrEquiv (e₁₂ : M₁ ≃SL[σ₁₂] M₂) (e₄₃ : M₄ ≃SL[
     ContinuousLinearMap.ext fun x => by
       simp only [ContinuousLinearMap.comp_apply, apply_symm_apply, coe_coe]
 
+section Pi
+
+/-- Combine a family of linear equivalences into a linear equivalence of `pi`-types.
+This is `Equiv.piCongrLeft` as a `ContinuousLinearEquiv` -/
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:573]:
```suggestion
This is `Equiv.piCongrLeft` as a `ContinuousLinearEquiv`.
-/
```

File: Mathlib/Topology/Basic.lean [hunk 11]
```diff
@@ -1359,6 +1359,12 @@ theorem IsOpen.preimage (hf : Continuous f) {t : Set Y} (h : IsOpen t) :
     IsOpen (f ⁻¹' t) :=
   hf.isOpen_preimage t h
 
+lemma Equiv.continuous_symm_iff (e : X ≃ Y) : Continuous e.symm ↔ IsOpenMap e := by
+  simp_rw [continuous_def, ← Set.image_equiv_eq_preimage_symm, IsOpenMap]
+
+lemma Equiv.isOpenMap_symm_iff (e : X ≃ Y) : IsOpenMap e.symm ↔ Continuous e := by
+  simp_rw [← Equiv.continuous_symm_iff, Equiv.symm_symm]
+
```
Comment (eric-wieser) [inline Mathlib/Topology/Basic.lean:1367]: Can you use one of these to golf `homeomorphOfContinuousOpen` in `Homeomorph.lean`?

Comment (kbuzzard) [reply Mathlib/Topology/Basic.lean:1367]: Yes, well spotted! Now I feel vindicated in including them in this PR :-)

Comment (kbuzzard) [reply Mathlib/Topology/Basic.lean:1367]: Oh sorry, I've only just noticed that in fact you suggested this four days ago!

File: Mathlib/Topology/Homeomorph.lean [hunk 12]
```diff
@@ -427,11 +427,7 @@ theorem locallyCompactSpace_iff (h : X ≃ₜ Y) :
 @[simps toEquiv]
 def homeomorphOfContinuousOpen (e : X ≃ Y) (h₁ : Continuous e) (h₂ : IsOpenMap e) : X ≃ₜ Y where
   continuous_toFun := h₁
-  continuous_invFun := by
-    rw [continuous_def]
-    intro s hs
-    convert ← h₂ s hs using 1
-    apply e.image_eq_preimage
+  continuous_invFun := (e.continuous_symm_iff).2 h₂
```
Comment (eric-wieser) [inline Mathlib/Topology/Homeomorph.lean:430]:
```suggestion
  continuous_invFun := e.continuous_symm_iff.2 h₂
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
